US08686028B2
Compound 6a,11a-dihydro-6H-benzo[4,5]furo[3,2-c]chromen-3-ol (100 mg, 0.42 mmol) was dissolved in DMF (5 ml) and NaH (10 mg, 0.42 mmol) was added to the solution at room temperature, followed by 1-(2-chloroethyl)piperidine hydrochloride (366 mg, 0.84 mmol). The reaction mixture was stirred at room temperature to 6 hours and poured into iced water and neutralized with 10% HCl to get the white precipitate. Precipitate were washed with water and purified by silica gel column chromatography using hexane-chloroform as the eluent to give 1-(2-(6a,11a-dihydro-6H-benzofuro[3,2-c]chromen-3-yloxy)ethyl)piperidine (102 mg, 70%) as white solid.

reactant | 6a,11a-dihydro-6H-benzo[4,5]furo[3,2-c]chromen-3-ol | 0.42 mmol, 100 mg | C1=C2C3C(COC2=CC(=C1)O)C1=C(O3)C=CC=C1 | C15H12O3
reactant | NaH | 0.42 mmol, 10 mg | [H-].[Na+]
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 0.84 mmol, 366 mg | Cl.ClCCN1CCCCC1
reactant | HCl | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(2-(6a,11a-dihydro-6H-benzofuro[3,2-c]chromen-3-yloxy)ethyl)piperidine | 102 mg, 70% | C1=C2C3C(COC2=CC(=C1)OCCN1CCCCC1)C1=C(O3)C=CC=C1 | C22H25NO3
